US09315521B2
6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol (200 mg, 790 μmol) was stirred in methanol (25 mL), and a solution of 4 N HCl in dioxane (300 μL, 1.2 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride (230 mg, 100% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 2.64 (s, 3H), 4.44 (s, 2H), 6.10 (bs, 1H), 7.46 (s, 1H); LRMS (ES+) m/z 254 (100%, M+1).

reactant | 6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol | 790 μmol, 200 mg | CC1=CC(=NC(=N1)SCC=1N=C(SC1)C)O | C10H11N3OS2
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.2 mmol, 300 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
product | 6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride | 230 mg, 100% yield | Cl.CC1=CC(=NC(=N1)SCC=1N=C(SC1)C)O | InChI=1S/C10H11N3OS2.ClH/c1-6-3-9(14)13-10(11-6)16-5-8-4-15-7(2)12-8;/h3-4H,5H2,1-2H3,(H,11,13,14);1H
